US09315521B2
2-{[(3,5-dimethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride
To a 0° C. mixture of 2-{[(3,5-dimethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (1.1 g, 3.8 mmol) in MeOH (15 mL) was added 4M HCl/dioxane (4 mL, 16 mmol). The solution was evaporated and dried in vacuo, affording the title compound (1.1 g, 97% yield); 1H NMR (500 MHz, DMSO-d6): δ 2.23 (s, 3H), 2.56 (s, 6H), 4.65 (m, 2H), 4.44 (s, 2H), 6.15 (s, 1H), 8.69 (s, 1H); M+262.

reactant | 2-{[(3,5-dimethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 3.8 mmol, 1.1 g | CC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C)C | C13H15N3OS
reactant | HCl dioxane | 16 mmol, 4M, 4 mL | Cl.O1CCOCC1
solvent | MeOH | 15 mL | CO | CH4O
product | 2-{[(3,5-dimethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 1.1 g, 97% yield | Cl.CC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C)C | InChI=1S/C13H15N3OS.ClH/c1-8-5-14-6-9(2)11(8)7-18-13-15-10(3)4-12(17)16-13;/h4-6H,7H2,1-3H3,(H,15,16,17);1H
